US08242130B2
A solution of 3-bromomethyl-2-(4-hydroxyphenyl)-4H-chromen-4-one (0.3 g, 0.8 mmol) in DMF (15 mL), water (15 mL), and NaCN (0.12 g, 2.4 mmol) was stirred at 45° C. for 24 h. The reaction mixture was extracted with EtOAc (3×100 mL) and concentrated to afford a solid residue. This residue was re-dissolved in MeOH (50 mL) and water (50 mL) and was mixed with potassium carbonate (1 g) and stirred at rt for 0.5 h. MeOH was removed, the aqueous layer was acidified with HCl (1 N) to pH=5. The solid was filtered off and then purified by column chromatography (hexane:EtOAc 1:2). The resulting solid was re-crystallized from dichloromethane and hexanes to give 2-(2-(4-hydroxyphenyl)-4-oxo-4H-chromen-3-yl)acetonitrile as a light yellow solid product (0.14 g, 63%). MS (ES) m/z: 278.94 (M+1), 277.93 (M); Mp. 258.2-259.5° C.

reactant | 3-bromomethyl-2-(4-hydroxyphenyl)-4H-chromen-4-one | 0.8 mmol, 0.3 g | BrCC1=C(OC2=CC=CC=C2C1=O)C1=CC=C(C=C1)O | C16H11BrO3
reactant | NaCN | 2.4 mmol, 0.12 g | [C-]#N.[Na+]
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 2-(2-(4-hydroxyphenyl)-4-oxo-4H-chromen-3-yl)acetonitrile | OC1=CC=C(C=C1)C=1OC2=CC=CC=C2C(C1CC#N)=O | C17H11NO3
